* /home/2019uee0117/esim-workspace/counter/counter.cir

.lib "/usr/share/local/sky130_fd_pr/models/sky130.lib.spice" tt
.include "/usr/share/local/sky130_fd_pr/models/sky130_fd_pr__model__diode_pd2nw_11v0.model.spice"
.include "/usr/share/local/sky130_fd_pr/models/sky130_fd_pr__model__pnp.model.spice"
.include "/usr/share/local/sky130_fd_pr/models/sky130_fd_pr__model__diode_pw2nd_11v0.model.spice"
.include "/usr/share/local/sky130_fd_pr/models/sky130_fd_pr__model__r+c.model.spice"
.include "/usr/share/local/sky130_fd_pr/models/sky130_fd_pr__model__inductors.model.spice"
.include "/usr/share/local/sky130_fd_pr/models/sky130_fd_pr__model__linear.model.spice"
* u1  net-_u1-pad1_ net-_u1-pad2_ net-_u1-pad3_ net-_u1-pad4_ net-_u1-pad5_ shubhang_cnt3
xsc4 net-_sc3-pad1_ net-_sc1-pad1_ gnd gnd sky130_fd_pr__nfet_01v8 
xsc3 net-_sc3-pad1_ net-_sc1-pad1_ dc dc sky130_fd_pr__pfet_01v8 
xsc1 net-_sc1-pad1_ rst dc dc sky130_fd_pr__pfet_01v8 
xsc2 net-_sc1-pad1_ rst gnd gnd sky130_fd_pr__nfet_01v8 
* u2  net-_sc3-pad1_ net-_u1-pad2_ adc_bridge_1
v3  clk gnd pulse(0 3 0 1u 1u 0.1m 0.2m)
v1  rst gnd pulse(0 3 0 1u 1u 1m 2m)
* u3  clk net-_u1-pad1_ adc_bridge_1
* u4  net-_u1-pad3_ net-_u1-pad4_ net-_u1-pad5_ a b c dac_bridge_3
v2 ? gnd  dc 3
* u5  a plot_v1
* u7  b plot_v1
* u6  c plot_v1
* s c m o d e
* u9  clk plot_v1
* u8  rst plot_v1
a1 [net-_u1-pad1_ ] [net-_u1-pad2_ ] [net-_u1-pad3_ net-_u1-pad4_ net-_u1-pad5_ ] u1
a2 [net-_sc3-pad1_ ] [net-_u1-pad2_ ] u2
a3 [clk ] [net-_u1-pad1_ ] u3
a4 [net-_u1-pad3_ net-_u1-pad4_ net-_u1-pad5_ ] [a b c ] u4
* Schematic Name:                             shubhang_cnt3, NgSpice Name: shubhang_cnt3
.model u1 shubhang_cnt3(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 instance_id=1 ) 
* Schematic Name:                             adc_bridge_1, NgSpice Name: adc_bridge
.model u2 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             adc_bridge_1, NgSpice Name: adc_bridge
.model u3 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             dac_bridge_3, NgSpice Name: dac_bridge
.model u4 dac_bridge(out_low=0 out_high=2 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
.tran 1e-03 10e-03 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(a)
plot v(b)
plot v(c)
plot v(clk)
plot v(rst)
.endc
.end
